Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
pelvic pain, left ovarian cyst
 
Major Surgical or Invasive Procedure:
s/p laparoscopy, extensive lysis of adhesions, right 
salpingectomy, left salpingectomy, left partial oophorectomy 
with ovarian cystectomy, cystoscopy and rectal bubble study

 
History of Present Illness:
Ms. ___ has a hx of endometriosis and fibroids. This ___ 
she noticed pelvic pain when she ran or was very active. She had 
no pain when sedentary. She also noticed urinary frequency and 
feeling like her bladder was not emptying completely. She 
thought she had a UTI but had neg ucx. She denies constipation. 
She is not sexually active. No bleeding or abnml discharge.  She 
had early menopause at age ___. She has no current hot flashes or
night sweats. She had open bilat cystectomy in ___ then 2 LSC 
for endometriosis at ___.

 
Past Medical History:
PREVIOUS GYN HISTORY:  G1 P0 TAB1; remote hx abnml pap, no hx 
STIs

PMHx:
OBESITY                                                         
PALPITATIONS                                                    
MENOPAUSAL                                                      
HYPERTENSION                                                    
H/O ENDOMETRIOSIS                                               

PSHx:
CHOLECYSTECTOMY                                       ___      
THYROID LOBECTOMY                                     ___      
OVARIAN CYSTECTOMY                                    ___      
open laparotomy         
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
Discharge physical exam
Vitals: VSS
Gen: NAD, A&O x 3
CV: RRR
Resp: no acute respiratory distress
Abd: soft, appropriately tender, no rebound/guarding, incisions 
c/d/i
Ext: no TTP
 
Pertinent Results:
N/A
 
Brief Hospital Course:
On ___, Ms. ___ was admitted to the gynecology service 
after undergoing laparoscopic right salpingectomy, left 
salpingectomy, partial left oophorectomy with ovarian 
cystectomy, lysis of adhesions, cystoscopy and rectal bubble 
study for pelvic pain secondary to left hydrosalpinx, left 
ovarian cyst and significant left adnexal adhesions. Please see 
the operative report for full details.

Her post-operative course was uncomplicated. Immediately 
post-op, her pain was controlled with IV dilaudid and toradol. 
Her diet was advanced without difficulty and she was 
transitioned to PO oxycodone, Tylenol and ibuprofen for pain 
control. On post-operative day 1, her urine output was adequate 
so her foley was removed and she voided spontaneously.
 
By post-operative day 1, she was tolerating a regular diet, 
voiding spontaneously, ambulating independently, and pain was 
controlled with oral medications. She was then discharged home 
in stable condition with outpatient follow-up scheduled.

 
Medications on Admission:
Medications - Prescription
ALPRAZOLAM - alprazolam 0.25 mg tablet. 1 Tablet(s) by mouth
___ hour prior to flight
AMLODIPINE - amlodipine 2.5 mg tablet. TAKE 1 TABLET BY MOUTH
EVERY DAY
FLUTICASONE [FLONASE] - Flonase 50 mcg/actuation nasal
spray,suspension. 2 sprays in each nostril at bedtime
HYDROCHLOROTHIAZIDE - hydrochlorothiazide 12.5 mg capsule. 1
Capsule by mouth once a day
LEVOTHYROXINE - levothyroxine 50 mcg tablet. TAKE 1 TABLET BY
MOUTH EVERY DAY 6 DAYS OF THE WEEK AND 2 TABLETS EVERY ___

Medications - OTC
CHOLECALCIFEROL (VITAMIN D3) [VITAMIN D3] - Dosage uncertain - 
(Prescribed by Other Provider)
MULTIVITAMIN [DAILY MULTI-VITAMIN] - Daily Multi-Vitamin tablet.
1 tablet(s) by mouth once a day -  (OTC)
OMEGA-3 FATTY ACIDS [FISH OIL CONCENTRATE] - Fish Oil 
Concentrate
1,000 mg capsule. 1 capsule(s) by mouth once a day last dose
___ -  (___
 
Discharge Medications:
1. Acetaminophen ___ mg PO Q6H:PRN pain 
2. Ibuprofen 600 mg PO Q6H:PRN pain 
3. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
pelvic pain secondary to left ovarian cyst, left hydrosalpinx 
and extensive left adnexal adhesions
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecology service after your 
procedure. You have recovered well and the team believes you are 
ready to be discharged home. Please call Dr. ___ 
office with any questions or concerns. Please follow the 
instructions below.

General instructions:
* Take your medications as prescribed.
* Do not drive while taking narcotics.
* Take a stool softener such as colace while taking narcotics to 
prevent constipation.
* Do not combine narcotic and sedative medications or alcohol.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* No strenuous activity until your post-op appointment.
* Nothing in the vagina (no tampons, no douching, no sex) for 6 
weeks.
* No heavy lifting of objects >10 lbs for 6 weeks.
* You may eat a regular diet.
* You may walk up and down stairs.

Incision care:
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No tub baths for 6 weeks.
* If you have steri-strips, leave them on. They will fall off on 
their own or be removed during your followup visit.

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.

 
Followup Instructions:
___